US07179943B2
N-([3,4-dichlorophenyl)-2,4-dioxobicyclo[3.2.1]octane-3-carboxamide
A solution of bicyclo[3,2,1]octane-2,4-dione (0.34 g, 2.5 mmole), 3,4-dichlorophenyl isocyanate (0.94 g, 5 mmole), and 60% sodium hydride in mineral oil (0.11 g, 2.75 mmole) in dimethylformamide (100 mL) was stirred at 0° C. for 1 hour and heated at 45–50° C. under nitrogen for 24 hours. After cooling, the mixture was diluted with H2O and treated with 2N aqueous HCl until the mixture was clear. The clear solution was then extracted with dichloromethane. The organic layer was washed with H2O again, dried over anhydrous magnesium sulfate, and concentrated on a rotary evaporator. The residue was purified by chromatography on silica gel (40% dichloromethane/hexane) to give an oily solid as the expected product. The oily product was recrystallized from ethyl acetate/hexane to afford the title compound as a white solid, mp=146–148° C.; MS (−) ESI m/z=325 (M−H)−.

reactant | bicyclo[3,2,1]octane-2,4-dione | 2.5 mmole, 0.34 g | C12C(CC(C(CC1)C2)=O)=O | C8H10O2
reactant | 3,4-dichlorophenyl isocyanate | 5 mmole, 0.94 g | ClC=1C=C(C=CC1Cl)N=C=O | C7H3Cl2NO
reactant | sodium hydride | [H-].[Na+]
reactant | HCl | 2N | Cl | ClH
reactant | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | H2O | O | H2O
product | [3,4-dichlorophenyl)-2,4-dioxobicyclo[3.2.1]octane-3-carboxamide | ClC=1C=C(C=CC1Cl)C12C(C(C(C(CC1)C2)=O)C(=O)N)=O | C15H13Cl2NO3
